US08580962B2
N-Hydroxy-3-trimethylsilyl-prop-2-ynimidoyl chloride (Compound 3b)
To a solution of 3-trimethylsilylprop-2-ynal oxime (Carreira, Erick M.; Lohse-Fraefel, Nina, Organic Letters, Volume 7, Issue 10, 2005, Pages 2011-20141, 68 g, 11.9 mmol) in 11.9 mL of DMF stirred at r.t. was added N-chlorosuccinimide (1.99 g, 14.8 mmol). After 4 h stirring, the solution was poured into water and extracted with Et2O. After the usual work-up, the residue (2.09 g) was used as it was for the next step.

reactant | 3-trimethylsilylprop-2-ynal oxime | 11.9 mmol, 68 g | C[Si](C#CC=NO)(C)C | C6H11NOSi
reactant | N-chlorosuccinimide | 14.8 mmol, 1.99 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | DMF | 11.9 mL | CN(C)C=O | C3H7NO
product | N-Hydroxy-3-trimethylsilyl-prop-2-ynimidoyl chloride | ON=C(C#C[Si](C)(C)C)Cl | C6H10ClNOSi
